US06403608B1
3-Ethyl-1-isoquinolone
O-Toluic acid (2.0 g. 14.7 mmol) in THF (75 ml) was cooled to −78° and sec—BuLi (22.5 ml) added slowly. The resulting red solution was warmed to 0° for 30 min then cooled to −78°. Propionitrile (1.05 ml) in THF (10 ml) was added. the solution allowed to warm and stirred to RT for 16 h. Water (100 ml) was added and the product extracted into EtOAc (100 ml), washed with dilute HCl solution, water, brine, dried ((Na2SO4), and concentrated in vacuo. The crude product was purified by chromatography (SiO2; 1-5% DCM/MeOH) ) to give the title compound (1.12 g, 44%) as a white solid. δH (CDCl3) 8.37 (1H, d, J 8.0 Hz). 7.63 (1H, t, J 8.0 Hz), 7.48 (1H, d, J 8.0 Hz). 7.42 (1H, t, J 8.0 Hz), 6.33 (1H, s), 2.67 (2H, q, J 7.6 Hz), 1.33 (3H, t, J 7.6 Hz). m/z (ES+, 70V) 174 (MH+).

reactant | sec—BuLi | 22.5 ml | [Li]C(C)CC
reactant | Propionitrile | 1.05 ml | C(CC)#N | C3H5N
reactant | Water | 100 ml | O | H2O
solvent | THF | 75 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-Ethyl-1-isoquinolone | 1.12 g, 44% | C(C)C=1NC(C2=CC=CC=C2C1)=O | C11H11NO
